US07351826B2
D. 6-Fluoro-pyridine-2-carboxylic acid (6-chloro-4-propyl-pyridazin-3-ylmethyl)-isobutyl-amide
To a stirred solution of (6-chloro-4-propyl-pyridazin-3-ylmethyl)-isobutyl-amine (940 mg, 3.89 mmol) and 6-fluoro-pyridine-2-carboxylic acid (663 mg, 4.7 mmol) in CH2Cl2 (10 ml) is added EDCI (783 mg, 4.7 mmol) and DMAP (244 mg, 2 mmol). The mixture is stirred at room temperature overnight. Water (10 ml) is added and the layers are separated. The organic layer is washed with brine (10 ml), then dried (Na2SO4) and evaporated. Flash column purification of the residue (2:1 of hexane: ethyl acetate) provides the title product. 1H NMR (CDCl3) (mixture of rotamers) 7.89 (q, 0.7H), 7.81 (q, 0.3H), 7.69 (dd, 0.3H), 7.53 (dd, 0.7H), 7.34 (s, 0.7H), 7.20 (s, 0.3H), 6.99 (dd, 0.7H1), 6.91 (dd, 0.3H), 5.19 (s, 0.6H), 5.07 (s, 1.4H), 3.41 (d, 0.6H), 3.31 (d, 1.4H1), 2.75 (t, 1.4H1), 2.48 (t, 0.6H), 2.08-2.17 (m, 1H), 1.69-1.75 (m, 1.4H1), 1.54-1.60 (m, 0.6H), 1.02 (t, 2.11H), 0.99 (d, 1.8H), 0.97 (t, 0.9H), 0.80 (d, 4.2H).

reactant | (6-chloro-4-propyl-pyridazin-3-ylmethyl)-isobutyl-amine | 3.89 mmol, 940 mg | ClC1=CC(=C(N=N1)CNCC(C)C)CCC | C12H20ClN3
reactant | 6-fluoro-pyridine-2-carboxylic acid | 4.7 mmol, 663 mg | FC1=CC=CC(=N1)C(=O)O | C6H4FNO2
reactant | EDCI | 4.7 mmol, 783 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | Water | 10 ml | O | H2O
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 2 mmol, 244 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 6-Fluoro-pyridine-2-carboxylic acid (6-chloro-4-propyl-pyridazin-3-ylmethyl)-isobutyl-amide | ClC1=CC(=C(N=N1)CN(C(=O)C1=NC(=CC=C1)F)CC(C)C)CCC | C18H22ClFN4O
